US09303023B2
To a solution of 2-methyl-1H-benzimidazole (3.50 g, 25.95 mmol) in DMF (70.0 mL), Cs2CO3 (12.08 g, 36.33 mmol) and 2-bromoethanol (2.5 mL, 34.15 mmol) was added. After stirring at 150° C. for 1 h, the reaction mixture was allowed to reach rt and was diluted with EtOAc. The org. layer was separated and the aq. layer was extracted with EtOAc (5×). The combined org. layers were washed with brine, dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield 2-(2-methyl-1H-benzoimidazol-1-yl)ethanol which was used in the next step without further purification. LC-MS conditions B: tR=0.25 min, [M+H]+=177.17.

reactant | 2-methyl-1H-benzimidazole | 25.95 mmol, 3.50 g | CC1=NC2=C(N1)C=CC=C2 | C8H8N2
reactant | Cs2CO3 | 36.33 mmol, 12.08 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromoethanol | 34.15 mmol, 2.5 mL | BrCCO | C2H5BrO
solvent | DMF | 70.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2-methyl-1H-benzoimidazol-1-yl)ethanol | CC1=NC2=C(N1CCO)C=CC=C2 | C10H12N2O
